US09238640B2
Preparation of 5,7-Dimethoxy-2-(4-(4-picolinoylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one
To a solution of picolinic acid (0.066 g, 0.54 mmol) in THF (20 mL) was added HOBt (0.079 g, 0.59 mmol), EDCl (0.113 g, 0.59 mmol), Et3N (0.08 mL, 0.59 mmol) and 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.200 g, 0.54 mmol). The resulting solution was stirred overnight at room temperature. The solution was concentrated in vacuo and the resulting solid was purified by flash chromatography on silica gel, eluting with 50% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, to afford the title compound (0.160 g, 62%): 1H NMR (300 MHz, DMSO-d6): δ 11.69 (s, 1H), 8.53-8.70 (m, 1H), 8.11 (d, J=8.9 Hz, 2H), 7.86-8.04 (m, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.44-7.57 (m, 1H), 7.04 (d, J=9.1 Hz, 2H), 6.69 (s, 1H), 6.47 (s, 1H), 3.74-3.97 (m, 8H), 3.53-3.68 (m, 2H), 3.41-3.53 (m, 2H), 3.23-3.39 (m, 2H). APCI MS m/z 472 [M+H]+.

reactant | picolinic acid | 0.54 mmol, 0.066 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | HOBt | 0.59 mmol, 0.079 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.59 mmol, 0.113 g | CCN=C=NCCCN(C)C.Cl
reactant | Et3N | 0.59 mmol, 0.08 mL | CCN(CC)CC | C6H15N
reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.54 mmol, 0.200 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5,7-Dimethoxy-2-(4-(4-picolinoylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.160 g, 62% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1C(CNCC1)C(C1=CC=NC=C1)=O)=O | C26H25N5O4
